US07947683B2
3-(2,4-dichlorophenyl)-4-methyl-5-(4-penten-1-yl)-4H-1,2,4-triazole
The title compound was prepared in analogy to Preparation 11 in 0.16 g yield starting from 2,4-dichlorobenzohydrazide (0.62 g) and N,N′-dimethyl-5-hexenimidamide hydrochloride (0.48 g). MS (m/z): 296 [MH]+.

reactant | 2,4-dichlorobenzohydrazide | 0.62 g | ClC1=C(C(=O)NN)C=CC(=C1)Cl | C7H6Cl2N2O
reactant | N,N′-dimethyl-5-hexenimidamide hydrochloride | 0.48 g | Cl.CNC(CCCC=C)=NC
product | 3-(2,4-dichlorophenyl)-4-methyl-5-(4-penten-1-yl)-4H-1,2,4-triazole | ClC1=C(C=CC(=C1)Cl)C1=NN=C(N1C)CCCC=C | C14H15Cl2N3
